US08937182B2
To a stirring solution of 5-(4-hydroxybenzyl)thiazolidine-2,4-dione (100 mg, 0.4 mmol) in DMSO (2 ml), potassium tert-butoxide (106 mg, 0.941 mmol) was added. Stirring continued at RT for about 1 hour. 2-Bromo-3′-methoxyacetophenone (100 mg, 0.5 mmol) was then added to the mixture. After 2 hours, LCMS showed that the reaction was complete. The reaction mixture was partitioned between EtOAc and water, and the aqueous phase was extracted with EtOAc. Combined extracts were washed with brine, dried on (Na2SO4), filtered, and evaporated in vacuo. The residue was analyzed on a small RediSep column eluting with 0-10% acetone/DCM. Fractions containing the product were combined and evaporated in vacuo to afford 70 mg of 5-{4-[2-(3-methoxyphenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione as a pale yellow solid.

reactant | 5-(4-hydroxybenzyl)thiazolidine-2,4-dione | 0.4 mmol, 100 mg | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | potassium tert-butoxide | 0.941 mmol, 106 mg | CC(C)([O-])C.[K+]
reactant | 2-Bromo-3′-methoxyacetophenone | 0.5 mmol, 100 mg | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 5-{4-[2-(3-methoxyphenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 70 mg | COC=1C=C(C=CC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C19H17NO5S
